US08106064B2
2-{4-[6-(3-Chloro-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl]-6-methyl-pyridin-2-yl}-isoindole-1,3-dione (85):
To a stirred solution of 6-(3-Chloro-5-methyl-benzoyl)-5-isopropyl-1 H-pyrimidine-2,4-dione (306 mg, 1 mmol), anhydrous powdered potassium carbonate (134 mg, 1 mmol), and lithium iodide (134 mg, 1 mmol) in DMF (5 ml) at room temperature, was added 2-(4-Chloromethyl-6-methyl-pyridin-2-yl)-isoindole-1,3-dione (286 mg, 1 mmol). After stirring for overnight, the mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:1)) to afford 250 mg (45%) of a white solid. 1H NMR (200 MHz, CDCl3) δ 1.14 (3H, d, J=6.8 Hz), 1.21 (3H, d, J=6.8 Hz), 2.25-2.32 (4H, m), 2.46 (3H, s), 4.51 (1H, d, J=16.0 Hz), 5.14 (1H, d, J=16.0 Hz), 6.84 (1H, s), 6.94 (1H, s), 7.33 (1H, s), 7.37 (1H, s), 7.64 (1H, s), 7.76-2.83 (2H, m), 7.90-7.96 (2H, m), 9.19 (1H, s).

reactant | 6-(3-Chloro-5-methyl-benzoyl)-5-isopropyl-1 H-pyrimidine-2,4-dione | 1 mmol, 306 mg | ClC=1C=C(C(=O)C2=C(C(NC(N2)=O)=O)C(C)C)C=C(C1)C | C15H15ClN2O3
reactant | potassium carbonate | 1 mmol, 134 mg | C([O-])([O-])=O.[K+].[K+]
reactant | lithium iodide | 1 mmol, 134 mg | [I-].[Li+]
reactant | 2-(4-Chloromethyl-6-methyl-pyridin-2-yl)-isoindole-1,3-dione | 1 mmol, 286 mg | ClCC1=CC(=NC(=C1)C)N1C(C2=CC=CC=C2C1=O)=O | C15H11ClN2O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-{4-[6-(3-Chloro-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl]-6-methyl-pyridin-2-yl}-isoindole-1,3-dione | 250 mg, 45% | ClC=1C=C(C(=O)C2=C(C(NC(N2CC2=CC(=NC(=C2)C)N2C(C3=CC=CC=C3C2=O)=O)=O)=O)C(C)C)C=C(C1)C | C30H25ClN4O5
